US04377580
A mixture of dimethyl [[6-(2-methylpropionamido)-4-quinazolinylamino]methylene]propanedioate (8.4 g) in diphenyl ether (42 ml) was stirred at 255° C. for 15 minutes. The reaction mixture was cooled to ambient temperature to give crystals which were filtered off, washed with hexane and dried. There were obtained 6.9 g of the crude crystals. The crude crystals were dissolved in a mixture of chloroform and methanol (4:1) under heating. Insoluble materials were removed by filtration. The filtrate was concentrated under reduce pressure to about 150 ml. After cooling, there was obtained crystalline methyl 4-oxo-10-(2-methyl-propionamido)-4H-pyrimido[1,2-C]quinazoline-3-carboxylate (5.85 g).

reactant | dimethyl [[6-(2-methylpropionamido)-4-quinazolinylamino]methylene]propanedioate | 8.4 g | CC(C(=O)NC=1C=C2C(=NC=NC2=CC1)NC=C(C(=O)OC)C(=O)OC)C | C18H20N4O5
solvent | diphenyl ether | 42 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | CO | CH4O
product | methyl 4-oxo-10-(2-methyl-propionamido)-4H-pyrimido[1,2-C]quinazoline-3-carboxylate | 5.85 g | O=C1C(=CN=C2N1C=NC=1C=CC(=CC21)NC(C(C)C)=O)C(=O)OC | C17H16N4O4
